US08486962B2
To an ice-cold solution of 4-amino-benzoyl chloride (0.38 g, 2.45 mmol) in tetrahydrofuran (2 ml) was added aqueous ammonia solution (15 ml). The reaction mixture was stirred at room temperature for 12 hr. The solvent was removed under vacuum, water added and the compound was extracted into ethyl acetate. The organic layer was dried and concentrated under vacuum. The crude compound was purified using silica gel column chromatography, using chloroform/methanol as eluent, to yield 4-amino-benzamide (0.1 g, 30%).

reactant | 4-amino-benzoyl chloride | 2.45 mmol, 0.38 g | NC1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO
reactant | ammonia | 15 ml | N | H3N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-amino-benzamide | 0.1 g, 30% | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
